US06410556B1
2-(tert-Butyoxyoxalyl-amino)-5-((2-(1H-indol-3-yl)-2-oxo-acetylamino)methyl)-6-(4-methoxy-benzyl)-4,5,6,7-tetrahydro-thieno[2,3-c]pyridine-3-carboxylic acid tert-butyl ester (101 mg, 0.143 mmol) was dissolved in dry tetrahydrofuran (6 ml) and passed through a pipette, plugged with cotton containing Raney 2800 Nickel (0.38 g). The pipette was flushed with dry tetrahydrofuran (6 ml) and the filtrate was concentrated in vacuo. Pd on carbon (10%, 102 mg, source: Avocado) and formic acid (10% in methanol, 5 ml) were added to the flask containing 2-(tert-Butyoxyoxalyl-amino)-5-((2-(1H-indol-3-yl)-2-oxo-acetylamino) methyl)-6-(4-methoxy-benzyl)-4,5,6,7-tetrahydro-thieno[2,3-c]pyridine-3-carboxylic acid tert-butyl ester. After stirring for 18 hours, the solution was filtered through a pad of celite and concentrated in vacuo. The residue was diluted in ethyl acetate, washed with saturated sodium bicarbonate (2×25 ml), brine (2×25 ml), dried (MgSO4), filtered and concentrated in vacuo. The residue was subjected to flash chromatography using a mixture of 10% methanol/dichloromethane as eluent, which afforded 2-(tert-butyoxyoxalyl-amino)-5-((2-(1H-indol-3-yl)-2-oxo-acetylamino)methyl)-4,5,6,7-tetrahydro-thieno[2,3-c]pyridine-3-carboxylic acid tert-butyl ester.

reactant | 2-(tert-Butyoxyoxalyl-amino)-5-((2-(1H-indol-3-yl)-2-oxo-acetylamino)methyl)-6-(4-methoxy-benzyl)-4,5,6,7-tetrahydro-thieno[2,3-c]pyridine-3-carboxylic acid tert-butyl ester | 0.143 mmol, 101 mg | C(C)(C)(C)OC(=O)C1=C(SC=2CN(C(CC21)CNC(C(=O)C2=CNC1=CC=CC=C21)=O)CC2=CC=C(C=C2)OC)NC(C(=O)OC(C)(C)C)=O | C37H42N4O8S
solvent | tetrahydrofuran | 6 ml | O1CCCC1 | C4H8O
catalyst | Nickel | 0.38 g | [Ni] | Ni
product | 2-(tert-butyoxyoxalyl-amino)-5-((2-(1H-indol-3-yl)-2-oxo-acetylamino)methyl)-4,5,6,7-tetrahydro-thieno[2,3-c]pyridine-3-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)C1=C(SC=2CNC(CC21)CNC(C(=O)C2=CNC1=CC=CC=C21)=O)NC(C(=O)OC(C)(C)C)=O | C29H34N4O7S
